US08871753B2
Step A: 3-[(3-Nitrobenzyl)thio]aniline
A solution of 3-aminobenzenethiol (0.51 mL, 4.8 mmol) and sodium methoxide (0.31 g, 5.8 mmol) in N,N-dimethylformamide (5.3 mL) was stirred at 25° C. for 10 minutes (min). The reaction mixture was treated with a solution of 1-(bromomethyl)-3-nitro-benzene (1.0 g, 4.8 mmol) in N,N-dimethylformamide (4.5 mL) dropwise and stirred at 25° C. for 1 h. The reaction mixture was poured into water (50 mL) and extracted with ethyl acetate (100 mL). The organic layer was separated and washed with brine (25 mL), dried over anhydrous sodium sulfate, filtered, and evaporated to give a crude brown oil. This material was purified by flash column chromatography to give the desired product (1.2 g, 95%) as a tan oil. LCMS for C13H13N2O2S (M+H)+: m/z=261.0.

reactant | 3-aminobenzenethiol | 4.8 mmol, 0.51 mL | NC=1C=C(C=CC1)S | C6H7NS
reactant | sodium methoxide | 5.8 mmol, 0.31 g | C[O-].[Na+]
reactant | 1-(bromomethyl)-3-nitro-benzene | 4.8 mmol, 1.0 g | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | 5.3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4.5 mL | CN(C=O)C | C3H7NO
product | 3-[(3-Nitrobenzyl)thio]aniline | 1.2 g, 95% | [N+](=O)([O-])C=1C=C(CSC=2C=C(N)C=CC2)C=CC1 | C13H12N2O2S
